US06174895B1
N-Methoxy-N-methyl-3-phenylpropanamide
A suspension of 10.2 grams (68.1 mmol) of hydrocinnamic acid, 14.4 grams (74.9 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 7.31 grams (74.9 mmol) of N,O-dimethylhydroxylamine hydrochloride in 250 mL of methylene chloride was cooled to 0° C. and treated with 19.1 mL (13.9 grams, 136 mmol) of triethylamine. The mixture was stirred for 16 hours with slow warming to rt and was then concentrated. The residue was taken up in 250 mL of ethyl acetate, washed with aqueous 1N hydrochloric acid solution (2×150 mL), saturated aqueous sodium hydrogencarbonate solution (2×100 mL), brine (1×100 mL), dried (Na2SO4), and evaporated to give 13.11 grams (99%) of the title compound as an oil. Anal. Calcd for C11H15NO2: C, 68.37; H, 7.82; N, 7.25. Found: C, 68.65; H, 8.11; N, 7.18.

reactant | hydrocinnamic acid | 68.1 mmol, 10.2 grams | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 74.9 mmol, 14.4 grams | Cl.C(C)N=C=NCCCN(C)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 74.9 mmol, 7.31 grams | Cl.CNOC
reactant | triethylamine | 136 mmol, 19.1 mL, 13.9 grams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyl-3-phenylpropanamide | 13.11 grams, 99% | CON(C(CCC1=CC=CC=C1)=O)C | C11H15NO2
